US05599816
Step 1: 2-Cyclopropyl-2-ethoxycarbonylacetamidine hydrochloride
Into a stirred solution of 38.72 g (0.253 mol) of ethyl 2-cyano-2-cyclopropylacetate (preparation described by R. W. J. Carney and J. Wojtkunski, Org. Prep. Proced. Int., 5, 25 (1973)) in 17.7 mL (0.303 mol) of anhydrous ethanol under a dry N2 atmosphere was introduced 10.0 g (0.274 mol) of gaseous hydrogen chloride with ice cooling. The mixture was allowed to warm to room temperature and stand for 72 hours. The reaction was diluted with 100 mL of anhydrous ethanol, 70 mL of ammonia in ethanol (4.17M) was added slowly at room temperature and the reaction was stirred for 3 hours. The reaction mixture was filtered to remove the ammonium chloride, and the solvent was removed to afford the title compound as a viscous off-white oil, which was taken directly to the next step.

reactant | ethyl 2-cyano-2-cyclopropylacetate | 0.253 mol, 38.72 g | C(#N)C(C(=O)OCC)C1CC1 | C8H11NO2
reactant | hydrogen chloride | 0.274 mol, 10.0 g | Cl | ClH
reactant | ammonia | 70 mL | N | H3N
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 4.17M | C(C)O | C2H6O
solvent | ethanol | 0.303 mol, 17.7 mL | C(C)O | C2H6O
product | 2-Cyclopropyl-2-ethoxycarbonylacetamidine hydrochloride | Cl.C1(CC1)C(C(=N)N)C(=O)OCC | InChI=1S/C8H14N2O2.ClH/c1-2-12-8(11)6(7(9)10)5-3-4-5;/h5-6H,2-4H2,1H3,(H3,9,10);1H
